US06307047B1
2-(4-Fluorophenyl)-4-(3-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared as described in Example 62, substituting 4-(3-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 135 mg, 34%). mp 199-201° C. 1H NMR (300 MHz, DMSO-d6) δ 3.24 (s, 3H), 6.98 (d, J=9 Hz, 1H), 7.18 (m, 2H), 7.32 (m, 1H), 7.39 (t, 1H), 7.54 (d, J=9 Hz, 2H), 7.71 (m, 2H), 7.91 (d, J=9 Hz, 2H), 8.27 (s, 1H). MS (DCI/NH3) m/z 439 (M+H)+, 456 (M+NH4)+.

reactant | 4-(3-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13FN2O3S
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-(3-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C23H16F2N2O3S
